US04361511
A stirred suspension of 5 g (0.019 mol) of 7-amino-5-phenyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one in 70 ml of methylene chloride is treated at 0° C. with 5.83 g (0.044 mol) of N-chlorosuccinimide. Subsequently, the mixture is stirred at room temperature for 27 hours and diluted with methylene chloride. The organic phase is washed with 2 N sodium carbonate solution, dried and evaporated. The residue is chromatographed on 20 g of silica gel with methylene chloride/ethyl acetate (4:1), there being obtained 7-amino-6,8-dichloro-5-phenyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one. After recrystallisation from methylene chloride/ethyl acetate, the product has a melting point of 228° C.

reactant | 7-amino-5-phenyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 0.019 mol, 5 g | NC=1C=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C1 | C16H15N3O
reactant | N-chlorosuccinimide | 0.044 mol, 5.83 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 7-amino-6,8-dichloro-5-phenyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | NC=1C(=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C1Cl)Cl | C16H13Cl2N3O
